US07220774B2
2-[3-(4-Methyl-piperazin-1-yl)-isoquinolin-1-yl]-acetamide, used as starting material, may be prepared as follows:
To a solution of [3-(4-Methyl-piperazin-1-yl)-isoquinolin-1-yl]-acetic acid ethyl ester (1.7 g, 5.4 mmol) in DMF, formamide (0.72 ml, 18.1 mmol) is added under argon. After heating up to 100° C. 5.4N MeONa in methanol (1 ml) is added in 10 portions (0.1 ml each) over a period of 45 minutes. After 60 minutes at 100° C. the reaction is cooled to RT and diluted with isopropanol (100 ml). The solvents are removed under reduced pressure, the residue is dissolved in ethyl acetate and extracted with aqueous sodium bicarbonate solution (5%). The organic phase is dried (Na2SO4) and concentrated. The resulting crude is purified on silica gel using methylene chloride/methanol (90/10→80/20) as eluent obtaining the product as a white solid.

reactant | [3-(4-Methyl-piperazin-1-yl)-isoquinolin-1-yl]-acetic acid ethyl ester | 5.4 mmol, 1.7 g | C(C)OC(CC1=NC(=CC2=CC=CC=C12)N1CCN(CC1)C)=O | C18H23N3O2
reactant | formamide | 18.1 mmol, 0.72 ml | C(=O)N | CH3NO
reactant | MeONa | 5.4N | CO[Na]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methanol | 1 ml | CO | CH4O
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 2-[3-(4-Methyl-piperazin-1-yl)-isoquinolin-1-yl]-acetamide | CN1CCN(CC1)C=1N=C(C2=CC=CC=C2C1)CC(=O)N | C16H20N4O
